US04438113
2,2,2-Trifluoroacetic anhydride (12.8 g) was added to the stirred suspension of 2-(2-formamido-5-chlorothiazol-4-yl)-2-propargyloxyiminoacetic acid (syn isomer, 8.0 g) in tetrahydrofuran (40.0 ml) at -10° to -5° C. Triethylamine (6.2 g) was added to the reaction mixture at -10° to -2° C., and stirred for 2 hours at 0° to 5° C. The reaction mixture was poured into a mixture of ethyl acetate and water, and adjusted to pH 7.5 with 10% aqueous solution of sodium hydroxide. The separated aqueous layer was adjusted to pH 2.5 with 10% hydrochloric acid and extracted with ethyl acetate. The ethyl acetate layer was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and evaporated under reduced pressure. The residue was washed with di-isopropyl ether and collected by filtration to give 2-[2-(2,2,2-trifluoroacetamido)-5-chlorothiazol-4-yl]-2-propargyloxyiminoacetic acid (syn isomer, 5.9 g), mp. 178° to 180° C.

reactant | 2,2,2-Trifluoroacetic anhydride | 12.8 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 2-(2-formamido-5-chlorothiazol-4-yl)-2-propargyloxyiminoacetic acid | 8.0 g | C(=O)NC=1SC(=C(N1)C(C(=O)O)=NOCC#C)Cl | C9H6ClN3O4S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 40.0 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Triethylamine | 6.2 g | C(C)N(CC)CC | C6H15N
product | 2-[2-(2,2,2-trifluoroacetamido)-5-chlorothiazol-4-yl]-2-propargyloxyiminoacetic acid | 5.9 g | FC(C(=O)NC=1SC(=C(N1)C(C(=O)O)=NOCC#C)Cl)(F)F | C10H5ClF3N3O4S
